US07598418B2
(1) Preparation of N-(2,3-dimethoxybenzyl)-5-nitronaphthalene-1-carboxamide
Using 5-nitronaphthalene-1-carboxylic acid (250 mg, 1.15 mmol) and 2,3-dimethoxybenzylamine (0.18 ml, 1.20 mmol), the same operation as the Example 104(2) gave the title compound as a gray white solid (232 mg, 55.0%).

reactant | 5-nitronaphthalene-1-carboxylic acid | 1.15 mmol, 250 mg | [N+](=O)([O-])C1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7NO4
reactant | 2,3-dimethoxybenzylamine | 1.20 mmol, 0.18 ml | COC1=C(CN)C=CC=C1OC | C9H13NO2
product | N-(2,3-dimethoxybenzyl)-5-nitronaphthalene-1-carboxamide | 232 mg, 55.0% | COC1=C(CNC(=O)C2=CC=CC3=C(C=CC=C23)[N+](=O)[O-])C=CC=C1OC | C20H18N2O5
